US04616014
A solution of 3-[2-(N-ethoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-1,2,4-triazine (1.815 g) in ethanol (32 ml) containing anhydrous hydrogen chloride was shaken with 5% palladium on carbon (0.4 g) under atmosphere of hydrogen gas at room temperature. After the theoretical amount of hydrogen gas was absorbed, the catalyst was filtered off, and the filtrate was evaporated. The residue was dissolved in water and made alkaline with an aqueous solution of sodium bicarbonate under ice cooling. The resulting precipitates were collected by filtration, washed with water, dried, and recrystallized from ethanol to give colorless crystals of 3-[2-(N-ethoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine (1.198 g), m.p. 144.5°~145.5° C.

reactant | 3-[2-(N-ethoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-1,2,4-triazine | 1.815 g | C(C)OC(=O)NCC(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C15H18N6O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 32 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | 3-[2-(N-ethoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine | 1.198 g | C(C)OC(=O)NCC(=O)NNC=1NN=C(C(N1)C)C1=CC=CC=C1 | C15H20N6O3
